US08283353B2
4-[trans-4-(2-cyclopropyl-2-oxoethoxy)cyclohexyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one
To a solution of 4-[trans-4-(2-cyclopropyl-2-hydroxyethoxy)cyclohexyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one (0.25 g) in methylene chloride (3 mL) was added 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one (0.35 g), and the mixture was stirred for 2 hr. Ethyl acetate, water and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred for 30 min. After stirring, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography to give the title compound as a colorless amorphous solid (0.21 g, 83%).

reactant | 4-[trans-4-(2-cyclopropyl-2-hydroxyethoxy)cyclohexyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 0.25 g | C1(CC1)C(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CC2)O | C35H39N5O5
reactant | 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one | 0.35 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[trans-4-(2-cyclopropyl-2-oxoethoxy)cyclohexyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 0.21 g, 83% | C1(CC1)C(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CC2)=O | C35H37N5O5
